US04740455
Synthesis of 5-chloro-3-(2-methanesulfonylaminoethyl)-2-methylbenzoxazolium-4-chlorobenzenesulfonate
The desired crystal was obtained by carrying out the same synthesis as used in Synthesis Example 1 using 4.2 g (25 mmols) of 5-chloro-2-methylbenzoxazole and 15.7 g (50 mmols) of 2-methanesulfonylaminoethyl-4-chlorobenzenesulfonate. Yield: 7.3 g (60.8%).

reactant | 5-chloro-2-methylbenzoxazole | 25 mmols, 4.2 g | ClC=1C=CC2=C(N=C(O2)C)C1 | C8H6ClNO
reactant | 2-methanesulfonylaminoethyl-4-chlorobenzenesulfonate | 50 mmols, 15.7 g | CS(=O)(=O)NCCOS(=O)(=O)C1=CC=C(C=C1)Cl | C9H12ClNO5S2
product | 5-chloro-3-(2-methanesulfonylaminoethyl)-2-methylbenzoxazolium 4-chlorobenzenesulfonate | ClC=1C=CC2=C([N+](=C(O2)C)CCNS(=O)(=O)C)C1.ClC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C11H14ClN2O3S.C6H5ClO3S/c1-8-14(6-5-13-18(2,15)16)10-7-9(12)3-4-11(10)17-8;7-5-1-3-6(4-2-5)11(8,9)10/h3-4,7,13H,5-6H2,1-2H3;1-4H,(H,8,9,10)/q+1;/p-1
